US07459554B2
3-(3-Aminomethylphenyl)-1-(3-benzyloxyphenyl)-imidazo[1,5-a]pyrazin-8-ylamine:
To a solution of 2-{3-[8-amino-1-(3-benzyloxyphenyl)-imidazo[1,5-a]pyrazin-3-yl]-benzyl}-isoindole-1,3-dione (328 mg, 0.594 mmol) in CH2Cl2 (4 mL), N2H4 (56 μL, 57 mg, 1.78 mmol) was added and the reaction was vortexed at rt for 17 h, under N2 atmosphere. Additional N2H4 (40 μL, 41 mg, 1.27 mmol) and CH2Cl2 (10 mL) were added and vortexing was continued for 3 d. The suspension was filtered, the solid was washed extensively with CH2Cl2, and the filtrate was concentrated in vacuo. The crude material (273 mg) was purified by chromatography on silica gel [Jones Flashmaster, 5 g/25 mL cartridge, eluting with MeOH (7N NH3):CH2Cl2 5%→10%], affording 107.4 mg (43%, 0.255 mmol) of the title compound, as a yellow solid, containing 0.18 eq. of DMF. Mixed fractions were also collected, giving an additional 67.4 mg (max. 16%, 0.159 mmol) of the title compound, as a yellow solid, containing 0.8 eq. of DMF; 1H NMR (CDCl3, 400 MHz) δ 1.88 (s, br, —NH2), 3.97 (s, 2H), 5.15 (s, 4H), 7.05-7.09 (m, 1H), 7.10 (d, J=4.8 Hz, 1H), 7.29-7.47 (m, 9H), 7.51 (t, J=7.8 Hz, 1H), 7.63 (d, J=5.2 Hz, 1H), 7.69 (d, J=7.6 Hz, 1H), 7.81 (s, 1H); MS (ES+): m/z 422.0 (14) [MH+].

reactant | 2-{3-[8-amino-1-(3-benzyloxyphenyl)-imidazo[1,5-a]pyrazin-3-yl]-benzyl}-isoindole-1,3-dione | 0.594 mmol, 328 mg | NC=1C=2N(C=CN1)C(=NC2C2=CC(=CC=C2)OCC2=CC=CC=C2)C=2C=C(CN1C(C3=CC=CC=C3C1=O)=O)C=CC2 | C34H25N5O3
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-(3-Aminomethylphenyl)-1-(3-benzyloxyphenyl)-imidazo[1,5-a]pyrazin-8-ylamine | 0.255 mmol, 107.4 mg, 43% | NCC=1C=C(C=CC1)C1=NC(=C2N1C=CN=C2N)C2=CC(=CC=C2)OCC2=CC=CC=C2 | C26H23N5O
